US06921759B2
Step 3: Preparation of 1-[4-fluoro-2-(methylthio)phenyl]methanamine
A slurry of 4-fluoro-2-(methylthio)benzamide (9 g, 48.6 mmol) in diethyl ether (500 mL) was cooled to zero degrees C. under nitrogen and lithium aluminum hydride (5.53 g, 145.8 mmol, 1.0 M in diethyl ether) was added dropwise. The reaction was allowed to stir with slow warming to 25 degrees C. overnight. The reaction was quenched via the addition of water (5.53 mL), 15% NaOH (5.53 μL) and water (16 mL). The mixture was stirred, the lithium salts precipitated out and were filtered off. The organic filtrate was washed with saturated sodium bicarbonate (300 mL) and brine (300 mL), dried over Na2SO4, filtered and reduced to a small volume. The resulting brown oil was placed under high vacuum to give the desired compound as a free base.

reactant | 4-fluoro-2-(methylthio)benzamide | 48.6 mmol, 9 g | FC1=CC(=C(C(=O)N)C=C1)SC | C8H8FNOS
reactant | lithium aluminum hydride | 145.8 mmol, 1.0 M, 5.53 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | 1-[4-fluoro-2-(methylthio)phenyl]methanamine | FC1=CC(=C(C=C1)CN)SC | C8H10FNS
